US04250246
To 80 ml of morpholine, 82.5 g (0.3 mol) of sodium 2-chloro-5-nitrobenzenesulfonate was added with stirring. The reaction mixture was heated at about 110° C. on an oil bath with stirring for 30 minutes. After cooling, 100 ml of a saturated aqueous sodium chloride solution was added to the mixture. The crystals thus-precipitated were collected by filtration and washed with acetone to obtain 88 g (yield: 90%) of sodium 2-morpholino-5-nitrobenzenesulfonate. Melting Point: 208°-210° C.

reactant | morpholine | 80 ml | N1CCOCC1 | C4H9NO
reactant | sodium 2-chloro-5-nitrobenzenesulfonate | 0.3 mol, 82.5 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)[O-].[Na+]
solvent | sodium chloride | 100 ml | [Cl-].[Na+]
product | sodium 2-morpholino-5-nitrobenzenesulfonate | 88 g, yield: 90% | O1CCN(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)[O-].[Na+] | InChI=1S/C10H12N2O6S.Na/c13-12(14)8-1-2-9(10(7-8)19(15,16)17)11-3-5-18-6-4-11;/h1-2,7H,3-6H2,(H,15,16,17);/q;+1/p-1
